US07851072B2
Step 1: 2-(3-bromophenyl)pyridine
2-bromophenylboronic acid (35.0 g, 0.174 mol) was reacted with 2-bromopyridine (55.1 g, 0.348 mol) under standard Suzuki coupling condition. The excess 2-bromopyridine was removed via vacuum distillation at 125° C. The product was collected at 180° C. as a light yellow liquid (29 g, 71%) and used for the next reaction without additional purification.

reactant | 2-bromophenylboronic acid | 0.174 mol, 35.0 g | BrC1=C(C=CC=C1)B(O)O | C6H6BBrO2
reactant | 2-bromopyridine | 0.348 mol, 55.1 g | BrC1=NC=CC=C1 | C5H4BrN
product | 2-(3-bromophenyl)pyridine | BrC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8BrN
